* Auto-generated SPICE netlist (NO TEXT OCR USED)

C1 0 n1 1u
* UNSNAPPED Capacitor raw_nodes=[2, None]
* SAME_NODE_SKIPPED Capacitor both_on=0
Q1 0 0 0 QNPNdefault
.model QNPNdefault NPN

.op
.end
